US07569600B2
To a stirred solution of 5-cyclohex-1-enyl-3-[(1-isobutyryl-piperidin-4-yl)-(trans-4-methyl cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester (50 mg, 0.10 mmol) in THF:H2O:MeOH (3:1:2) (3 mL), was added LiOH in water (1N) (0.3 mL, 0.3 mmol). The reaction mixture was stirred at 70° C. for 5 h. The mixture was concentrated under reduced pressure on a rotary evaporator and the residue was treated with a solution of 0.1 N HCl and extracted in EtOAc. The EtOAc layer was dried over Na2SO4. Filtration and removal of the solvent under reduced pressure on a rotary evaporator followed by HPLC purification afforded 5-cyclohex-1-enyl-3-[(1-isobutyryl-piperidin-4-yl)-(trans-4-methyl cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid (30.0 mg, 61%) as a foam.

reactant | 5-cyclohex-1-enyl-3-[(1-isobutyryl-piperidin-4-yl)-(trans-4-methyl cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester | 0.10 mmol, 50 mg | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)C1CCN(CC1)C(C(C)C)=O)C1=CCCCC1 | C29H42N2O4S
reactant | LiOH | [Li+].[OH-]
reactant | water | 0.3 mmol, 1N, 0.3 mL | O | H2O
solvent | THF H2O MeOH | 3 mL | C1CCOC1.O.CO
product | 5-cyclohex-1-enyl-3-[(1-isobutyryl-piperidin-4-yl)-(trans-4-methyl cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid | 30.0 mg, 61% | C1(=CCCCC1)C1=CC(=C(S1)C(=O)O)N(C(=O)[C@@H]1CC[C@H](CC1)C)C1CCN(CC1)C(C(C)C)=O | C28H40N2O4S
